* D:\temp\git\ulet_lab3\Draft1.asc
RC1 VCC wy1 10k
RC2 VCC wy2 10k
Q1 wy1 N001 N002 0 BC547C
Q2 wy2 0 N002 0 BC547C
V3 N001 0 AC 1
Q3 N002 N003 N004 0 BC547C
R1 0 N003 10k
R2 N003 VEE 10k
R3 N004 VEE 10k
V1 VCC 0 10
V2 0 VEE 10
.model NPN NPN
.model PNP PNP
.lib C:\Users\jasio\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.backanno
.end
